US05077304
A solution of 5.0 g of triethylamine in 10 ml of pyridine is cooled to from -5° C. to -10° C., and 20 ml of carbon disulfide are added dropwise. At -10° C., a solution of 15.0 g of 2,4-diisopropyl-6-(4-chlorophenoxy)-3-aminopyridine in 27 ml of pyridine is slowly added dropwise. The mixture is further stirred at -10° C. for 1 hour. A solution of 10.0 g of N,N'-dicyclohexylcarbodiimide in 10 ml of pyridine is then added. After a further 3 hours at -10° C., the mixture is stirred for 18 hours at room temperature. The reaction mixture is concentrated by evaporation and hexane is added to the residue. Thehhexane solution is filtered off and concentrated by evaporation. 2,4-Diisopropyl-6-(4-chlorophenoxy)-pyrid-3-yl isothiocyanate is obtained in the form of a yellow oil, which is used for the next reaction without being further purified; IR (CCl 4): 2090, 1490, 1220 cm-1.

reactant | triethylamine | 5.0 g | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 20 ml | C(=S)=S | CS2
reactant | 2,4-diisopropyl-6-(4-chlorophenoxy)-3-aminopyridine | 15.0 g | C(C)(C)C1=NC(=CC(=C1N)C(C)C)OC1=CC=C(C=C1)Cl | C17H21ClN2O
reactant | N,N'-dicyclohexylcarbodiimide | 10.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 27 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2,4-Diisopropyl-6-(4-chlorophenoxy)-pyrid-3-yl isothiocyanate | C(C)(C)C1=NC(=CC(=C1N=C=S)C(C)C)OC1=CC=C(C=C1)Cl | C18H19ClN2OS
